US08227458B2
trans-4-(3,5-Difluoro-phenoxy)-cyclohexanecarboxylic acid hydrazide
A mixture of trans-4-(3,5-difluoro-phenoxy)-cyclohexanecarboxylic acid methyl ester (0.148 g, 0.548 mmol) and hydrazine hydrate (0.106 ml, 2.19 mmol) was heated at 120° C. for 18 h. After cooling to room temperature the reaction mixture was partitioned between ethyl acetate (50 ml) and 1 M aqueous sodium hydroxide solution (50 ml). The organic layer was separated.

reactant | trans-4-(3,5-difluoro-phenoxy)-cyclohexanecarboxylic acid methyl ester | 0.548 mmol, 0.148 g | COC(=O)[C@@H]1CC[C@H](CC1)OC1=CC(=CC(=C1)F)F | C14H16F2O3
reactant | hydrazine hydrate | 2.19 mmol, 0.106 ml | O.NN
product | trans-4-(3,5-Difluoro-phenoxy)-cyclohexanecarboxylic acid hydrazide | FC=1C=C(O[C@@H]2CC[C@H](CC2)C(=O)NN)C=C(C1)F | C13H16F2N2O2
